US05302593
b) Preparation of 7-morpholinylheptylphthalimide
7-Bromoheptylphthalimide (489 mg; 2.0 mmoles) and morpholine (0.35 ml; 4.0 mmoles) were dissolved in anhydrous acetonitrile (5 ml). Reaction times and process as per Example 1.

reactant | 7-Bromoheptylphthalimide | 2.0 mmoles, 489 mg | BrCCCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C15H18BrNO2
reactant | morpholine | 4.0 mmoles, 0.35 ml | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 7-morpholinylheptylphthalimide | N1(CCOCC1)CCCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C19H26N2O3
